US04997840
A solution of 1-[4,5-difluoro-2-(methylamino)phenyl]-2-methylsulphinylethanone (32.4 g) in acetic acid (90 ml) and ethanol (90 ml) was added over a period of 20 minutes to a stirred suspension of zinc dust (50 g) in acetic acid (45 ml) and ethanol (80 ml) at 0° under nitrogen. The mixture was stirred at ambient temperature overnight and then filtered through diatomaceous earth (sold under the trade name CELITE). The filter bed was washed with acetic acid (3×50 ml). The combined filtrate and washings were poured into water (1200 ml) and the mixture was extracted with dichloromethane (3×400 ml). The combined extracts were washed with aqueous sodium carbonate (1M, 2×500 ml) and dried over magnesium sulphate. The solvent was removed by distillation to give the novel compound 4',5'-difluoro-2'-(methylamino)acetophenone, m.p 51°-52°.

reactant | 1-[4,5-difluoro-2-(methylamino)phenyl]-2-methylsulphinylethanone | 32.4 g | FC1=CC(=C(C=C1F)C(CS(=O)C)=O)NC | C10H11F2NO2S
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | zinc | 50 g | [Zn] | Zn
product | 4',5'-difluoro-2'-(methylamino)acetophenone | FC1=CC(=C(C=C1F)C(C)=O)NC | C9H9F2NO
